US05607950
Thionyl chloride (10 ml) was added to a solution of 1-benzyl-2-(2-hydroxyethyl)piperidine (11.64 g, 50 mmol) (Annalen, 1898, 301, 117) in chloroform (150 ml) and the mixture heated under reflux for 45 minutes and evaporated to give crude 1-benzyl-2-(2-chloroethyl)piperidine hydrochloride (16.14 g). A portion of the crude product (6.85 g, 25 mmol) was partitioned between ethyl acetate and 10% aqueous sodium carbonate solution and the organic layer was dried over magnesium sulphate and evaporated. Sodium hydride (2.2 g, 55 mmol; 60% dispersion in oil) was added to a solution of diphenylacetonitrile (9.66 g, 50 mmol) in toluene (100 ml) and the mixture heated at reflux for 1.75 hours, treated with a solution of the above crude residue in toluene (20 ml) and the mixture heated under reflux for 3 hours, allowed to cool to room temperature, washed with water, dried over magnesium sulphate and evaporated. The residue was dissolved in ether and the solution treated with excess ethereal oxalic acid. The resulting precipitate was collected, washed with ether, dried and recrystallised from acetonitrile/ether to give the title compound (5.37 g, 37%) as colourless crystals, m.p. 117°-120° C., which were characterised as a hemihydrate.

reactant | Thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-benzyl-2-(2-hydroxyethyl)piperidine | 50 mmol, 11.64 g | C(C1=CC=CC=C1)N1C(CCCC1)CCO | C14H21NO
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-benzyl-2-(2-chloroethyl)piperidine hydrochloride | 16.14 g | Cl.C(C1=CC=CC=C1)N1C(CCCC1)CCCl | InChI=1S/C14H20ClN.ClH/c15-10-9-14-8-4-5-11-16(14)12-13-6-2-1-3-7-13;/h1-3,6-7,14H,4-5,8-12H2;1H
